US09079866B2
4′-(5-Amino-3-cyanopyrazin-2-yl)-3′-fluoro-N-(2-hydroxyethyl)biphenyl-2-sulfonamide
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile and 2-bromo-N-(2-hydroxyethyl)benzenesulfonamide. MS (ESI): mass calcd. for C19H16FNO53S, 413.10; m/z found, 414.0 [M+H]+. 1H NMR (500 MHz, DMSO-δ6) δ 8.26 (s, 1H), 7.99 (dd, J=7.9, 1.4, 1H), 7.72-7.59 (m, 3H), 7.47-7.41 (m, 2H), 7.41-7.31 (m, 4H), 4.70-4.64 (t, J=5.5, 1H), 3.45-3.27 (m, 2H), 2.85-2.78 (m, 2H).

reactant | 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BFN4O2
reactant | 2-bromo-N-(2-hydroxyethyl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)NCCO | C8H10BrNO3S
product | 4′-(5-Amino-3-cyanopyrazin-2-yl)-3′-fluoro-N-(2-hydroxyethyl)biphenyl-2-sulfonamide | NC=1N=C(C(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NCCO)F)C#N | C19H16FN5O3S
